US07115611B2
(4-{[6-(4-Chloro-phenyl)-pyridin-3-ylmethyl]-methyl-amino}-2-methyl-phenoxy)-acetic acid
A] The title compound was prepared in analogy to example 4, but using in step C] (2-methyl-4-methylamino-phenoxy)-acetic acid ethyl ester (prepared in analogy to example 5F])instead of [2-(3-methoxy-propyl)-phenoxy]-acetic acid ethyl ester and 5-chloromethyl-2-(4-chloro-phenyl)-pyridine instead of [rac]-3-(1-chloro-butyl)-2-methyl-6-(3-trifluoromethyl-phenyl)-pyridine, as off-white crystals of mp. 174–76° C.

reactant | (2-methyl-4-methylamino-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)NC)C)=O | C12H17NO3
reactant | [2-(3-methoxy-propyl)-phenoxy]-acetic acid ethyl ester | C(C)OC(COC1=C(C=CC=C1)CCCOC)=O | C14H20O4
reactant | 5-chloromethyl-2-(4-chloro-phenyl)-pyridine | ClCC=1C=CC(=NC1)C1=CC=C(C=C1)Cl | C12H9Cl2N
product | (4-{[6-(4-Chloro-phenyl)-pyridin-3-ylmethyl]-methyl-amino}-2-methyl-phenoxy)-acetic acid | ClC1=CC=C(C=C1)C1=CC=C(C=N1)CN(C1=CC(=C(OCC(=O)O)C=C1)C)C | C22H21ClN2O3
